US08217031B2
7-Trifluoroacetyl-5,6,7,8-tetrahydro-4H-furo[2,3-c]azepin-4-ol
5,6,7,8-Tetrahydro-4H-furo[2,3-c]azepin-4-ol (28 mg) prepared in Reference Example 37 and 57 mg of triethylamine were dissolved in 1 mL of methylene chloride, 57 mg of trifluoroacetic acid anhydride was dropped thereinto and the mixture was stirred at room temperature for 3 hours. The reaction solution was poured over 1 mL of water followed by extracting with ethyl acetate. The organic layer was washed with water and a saturated solution of sodium chloride successively and dried over anhydrous magnesium sulfate and the solvent was evaporated therefrom in vacuo to give 37 mg of the objective compound.

reactant | 5,6,7,8-Tetrahydro-4H-furo[2,3-c]azepin-4-ol | 28 mg | O1C=CC2=C1CNCCC2O | C8H11NO2
reactant | triethylamine | 57 mg | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic acid anhydride | 57 mg | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | 1 mL | O | H2O
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | 7-Trifluoroacetyl-5,6,7,8-tetrahydro-4H-furo[2,3-c]azepin-4-ol | 37 mg | FC(C(=O)N1CC2=C(C(CC1)O)C=CO2)(F)F | C10H10F3NO3
